US09023879B2
Preparation of 4-(3-(4-cyano-3-(trifluoromethyl)phenyl)-5,5-dimethyl-2,4-dioxoimidazolidin-1-yl)-2-fluorobenzamide (Compound (MIII))
To a solution of 4-(3-(4-cyano-3-(trifluoromethyl)phenyl)-5,5-dimethyl-4-oxo-2-thioxoimidazolidin-1-yl)-2-fluorobenzamide (Compound (MII)) (1.48 g, 3.4 mmol) in ethanol (60 mL) was added 30% aqueous H2O2 (30 mL) at room temperature. The solution was heated to reflux for 1 h. After removal of ethanol, brine (100 mL) was added and the aqueous layer was extracted with ethyl acetate. The organic layer was dried over sodium sulfate and concentrated under reduced pressure to obtain the crude product that was purified by silica gel chromatography. MS (m/z): 435 (M+1). HPLC: Column, YMC ODS A, 4.6×150 mm, 5 μm, Mobile Phase A: 10 mM Ammonium acetate, Mobile Phase B: Acetonitrile, Gradient, 10% B up to 2 min, 10% to 90% B in 6 min, hold for 10 min, 90% to 10% B in 4 min, Retention time, 9.548 min, HPLC Purity, 98.08%, Flow Rate, 1 mL/min. 1H NMR (CDCl3, Freebase): δ (ppm) 8.3 (t, 1H), 8.18 (s, 1H), 8.2 (d, 1H), 7.96 (d, 1H), 7.25 (m, 2H), 6.65 (bd, 1H), 5.9 (bs, 1H) 1.65 (s, 6H).

reactant | 4-(3-(4-cyano-3-(trifluoromethyl)phenyl)-5,5-dimethyl-4-oxo-2-thioxoimidazolidin-1-yl)-2-fluorobenzamide | 3.4 mmol, 1.48 g | C(#N)C1=C(C=C(C=C1)N1C(N(C(C1=O)(C)C)C1=CC(=C(C(=O)N)C=C1)F)=S)C(F)(F)F | C20H14F4N4O2S
reactant | H2O2 | 30 mL | OO | H2O2
solvent | ethanol | 60 mL | C(C)O | C2H6O
product | 4-(3-(4-cyano-3-(trifluoromethyl)phenyl)-5,5-dimethyl-2,4-dioxoimidazolidin-1-yl)-2-fluorobenzamide | C(#N)C1=C(C=C(C=C1)N1C(N(C(C1=O)(C)C)C1=CC(=C(C(=O)N)C=C1)F)=O)C(F)(F)F | C20H14F4N4O3
